US06492383B1
A. Preparation of 2-Methyl-5-aminoindole
To a mixture of 2-methyl-5-nitroindole (200 mg, 1.13 mmol) and palladium on carbon (20 mg, 10%) in 10 mL of ethanol was added hydrazine (100 mg, 3.4 mmol) and heated at 80° C. for 16 hours. The reaction mixture was filtered through celite and concentrated in vacuo to provide a red-brown solid which was used without further purification. RP18-HPLC RT: 1.278 minutes; API MS: 147.1 (M+1).

reactant | 2-methyl-5-nitroindole | 1.13 mmol, 200 mg | CC=1NC2=CC=C(C=C2C1)[N+](=O)[O-] | C9H8N2O2
reactant | hydrazine | 3.4 mmol, 100 mg | NN | H4N2
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-Methyl-5-aminoindole | CC=1NC2=CC=C(C=C2C1)N | C9H10N2
